US06140501
2 g (0.0066 mol) of tert-butyl 4-(2-methoxycarbonylmethoxyethyl)piperazine-1-carboxylate prepared in Example I.4.3. are dissolved in 10 ml of ethanol in a 50 ml three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. 11 ml of a 3.8M solution of hydrochloric acid in ethanol are added in a single portion with stirring. The mixture is stirred at room temperature for 30 minutes and a further 11 ml of a 3.8M solution of hydrochloric acid in ethanol are added. The mixture is brought at the reflux temperature for 4 hours. The solvent is removed on a rotary evaporator under reduced pressure. 1.86 g (97.3%) of ethyl 2-(1-piperazinyl)-ethoxyacetate dihydrochloride are obtained in the form of a pale yellow oil which crystallizes.

reactant | tert-butyl 4-(2-methoxycarbonylmethoxyethyl)piperazine-1-carboxylate | 0.0066 mol, 2 g | COC(=O)COCCN1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O5
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(1-piperazinyl)-ethoxyacetate dihydrochloride | 1.86 g, 97.3% | Cl.Cl.N1(CCNCC1)CCOCC(=O)OCC | InChI=1S/C10H20N2O3.2ClH/c1-2-15-10(13)9-14-8-7-12-5-3-11-4-6-12;;/h11H,2-9H2,1H3;2*1H
